US08420657B2
Step 3.1: (4-Isopropoxy-phenyl)-(7H-pyrrolo[2,3-d]pyrimidin-2-yl)-amine
To a suspension of 2-chloro-7H-pyrrolo[2,3-d]pyrimidine (700 mg, 4.33 mmol) in BuOH (10 mL) is added 4-isopropoxyaniline (1.31 g, 8.66 mmol) and concentrated aqueous HCl (37%, 1.28 mL, 13.0 mmol). The reaction mixture is heated to 140° C. for 24 h, cooled to rt, and concentrated under reduce pressure. The residue is dissolved in EtOAc and the organic layer is washed with saturated aqueous Na2CO3 solution (2×). The organic layer is dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue solid residue is triturated with hexane to yield the title compound as an off-white solid.

reactant | 2-chloro-7H-pyrrolo[2,3-d]pyrimidine | 4.33 mmol, 700 mg | ClC=1N=CC2=C(N1)NC=C2 | C6H4ClN3
reactant | 4-isopropoxyaniline | 8.66 mmol, 1.31 g | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
reactant | HCl | 13.0 mmol, 1.28 mL | Cl | ClH
solvent | BuOH | 10 mL | C(CCC)O | C4H10O
product | (4-Isopropoxy-phenyl)-(7H-pyrrolo[2,3-d]pyrimidin-2-yl)-amine | C(C)(C)OC1=CC=C(C=C1)NC=1N=CC2=C(N1)NC=C2 | C15H16N4O
